US04889866
A mixture of 4-(2-chlorophenyl)-3-(4-hydroxyphenyl)sulfonyl-5-methoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine (4.33 g), potassium carbonate (2.76 g), methyl iodide (5.68 g), and N,N-dimethylformamide (DMF) (25 ml) was stirred at room temperature for 24 hours. The reaction mixture was diluted with water (250 ml) and extracted with ethyl acetate. The extract was dried over magnesium sulfate, filtered, and evaporated to dryness. The residue was crystallized from ether to give 4-(2-chlorophenyl)-3-(4-methoxyphenyl)sulfonyl-5-methoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine, m.p. 176°-178°.

reactant | 4-(2-chlorophenyl)-3-(4-hydroxyphenyl)sulfonyl-5-methoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine | 4.33 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)C)S(=O)(=O)C1=CC=C(C=C1)O | C21H20ClNO5S
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 5.68 g | CI | CH3I
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | 4-(2-chlorophenyl)-3-(4-methoxyphenyl)sulfonyl-5-methoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)C)S(=O)(=O)C1=CC=C(C=C1)OC | C22H22ClNO5S
